US07309699B2
3-[(4′-iodo-1,1′-biphenyl-4-yl)oxy]quinuclidine
3-Hydroxy quinuclidine (Aldrich, 508 mg, 4 mmol) was coupled with 4′-iodo-1,1′-biphenyl-4-ol (Avacado, 592 mg, 2 mmol) according to the procedure of Example 5A. The title product was purified by chromatography (SiO2, CH2Cl2:MeOH:NH3.H2O, 90:10:1, Rf. 0.30) as solid (480 mg, yield, 59%). 1H NMR (MeOH-d4, 300 MHz) δ 1.43-1.57 (m, 1H), 1.62-1.88 (m, 2H), 1.97-2.12 (m, 1H), 2.14-2.21 (m, 1H), 2.72-3.00 (m, 5H), 3.31-3.43 (m, 1H), 4.51-4.60 (m, 1H), 6.98 (d, J=8.8 Hz, 2H), 7.35 (d, J=8.5 Hz, 2H), 7.53 (d, J=8.8 Hz, 2H), 7.74 (d, J=8.5 Hz, 2H) ppm. MS (DCl/NH3) m/z 406 (M+H)+.

reactant | 3-Hydroxy quinuclidine | 4 mmol, 508 mg | OC1CN2CCC1CC2 | C7H13NO
reactant | 4′-iodo-1,1′-biphenyl-4-ol | 2 mmol, 592 mg | IC1=CC=C(C=C1)C1=CC=C(C=C1)O | C12H9IO
product | 3-[(4′-iodo-1,1′-biphenyl-4-yl)oxy]quinuclidine | IC1=CC=C(C=C1)C1=CC=C(C=C1)OC1CN2CCC1CC2 | C19H20INO
